US08193199B2
Prepared according to Procedure H using (8-chloro-2-(2-(methylsulfonyl)phenyl) quinolin-3-yl)methanamine (0.060 g, 0.173 mmol), 6-chloropurine (0.032 g, 0.21 mmol, 1.2 eq) and DIEA (0.34 mmol, 2.0 eq) in n-butanol (3 mL). N-((8-chloro-2-(2-(methylsulfonyl)phenyl)quinolin-3-yl)methyl)-9H-purin-6-amine [PI3Kδ IC50=222 nM] was obtained after purification as a white solid. 1H-NMR (MeOD) δ ppm 8.29 (s, 1H), 8.13 (s, 1H), 8.01-8.09 (m, 2H), 7.78-7.81 (m, 1H), 7.66-7.76 (m, 1H), 7.57-7.65 (m, 1H), 7.46 (d, J=7.83 Hz, 2H), 4.87-4.98 (m, 2 H), 3.28 (s, 3H), Mass Spectrum (ESI) m/e=465 (M+1).

reactant | (8-chloro-2-(2-(methylsulfonyl)phenyl) quinolin-3-yl)methanamine | 0.173 mmol, 0.060 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)S(=O)(=O)C)CN | C17H15ClN2O2S
reactant | 6-chloropurine | 0.21 mmol, 0.032 g, 1.2 eq | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | DIEA | 0.34 mmol, 2.0 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | N-((8-chloro-2-(2-(methylsulfonyl)phenyl)quinolin-3-yl)methyl)-9H-purin-6-amine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)S(=O)(=O)C)CNC1=C2N=CNC2=NC=N1 | C22H17ClN6O2S
